US07741347B2
Step 2. Preparation of (S)-benzyl 3-(1-benzyl-1H-1,2,3-triazol-4-yl)-2-(tert-butoxycarbonylamino)propanoate (cj-28)
To a mixture of (S)-benzyl 2-(tert-butoxycarbonylamino)pent-4-ynoate (0.50 g, 1.65 mmol), sodium ascorbate (0.036 g, 0.18 mmol), CuSO4-5H2O (0.022 g, 0.09 mmol) and NaN3 (0.13 g, 2.1 mmol) in DMF-H2O (5 mL, 4:1) at rt was added BnBr (0.24 mL, 2.02 mmol) and the mixture was warmed to 65° C. After 5 h LCMS indicated low conversion. A further portion of NaN3 (100 mg) was added and heating was continued for 12 h. The reaction was poured into EtOAc and H2O and shaken. The layers were separated and the aqueous layer extracted 3× with EtOAc and the combined organic phases washed (H2O×3, brine), dried (Na2SO4), filtered, and concentrated. The residue was purified by flash (Biotage, 40+M 0-5% MeOH in CH2Cl2; TLC 3% MeOH in CH2Cl2) to afford a light yellow oil which solidified on standing (748.3 mg, 104%). The NMR was consistent with the desired product but suggests the presence of DMF. The material was used as is without further purification. 1HNMR (400 MHz, DMSO-d6) δ 7.84 (s, 1H), 7.27-7.32 (m, 10H), 5.54 (s, 2H), 5.07 (s, 2H), 4.25 (m, 1H), 3.16 (dd, J=1.0, 5.3 Hz, 1H), 3.06 (dd, J=5.3, 14.7 Hz), 2.96 (dd, J=9.1, 14.7 Hz, 1H), 1.31 (s, 9H). LCMS: Anal. Calcd. for C24H28N4O4: 436. found: 437 (M+H)+.

reactant | (S)-benzyl 2-(tert-butoxycarbonylamino)pent-4-ynoate | 1.65 mmol, 0.50 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC1=CC=CC=C1)CC#C | C17H21NO4
reactant | sodium ascorbate | 0.18 mmol, 0.036 g | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
reactant | NaN3 | 2.1 mmol, 0.13 g | [N-]=[N+]=[N-].[Na+]
reactant | BnBr | 2.02 mmol, 0.24 mL | C1=CC=C(C=C1)CBr | C7H7Br
reactant | NaN3 | 100 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF H2O | 5 mL | CN(C)C=O.O
solvent | H2O | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-benzyl 3-(1-benzyl-1H-1,2,3-triazol-4-yl)-2-(tert-butoxycarbonylamino)propanoate | C(C1=CC=CC=C1)N1N=NC(=C1)C[C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C | C24H28N4O4
